US08703805B2
Preparation of 3-(2-{5-[5-(3-Methanesulfonyl-phenyl)-thiophen-2-yl]-3-trifluoromethyl-pyrazol-1-yl}-phenyl)-pyridine
To a 50 mL round bottom flask attached with condenser was added 1-(2-Bromo-phenyl)-5-[5-(3-methanesulfonyl-phenyl)-thiophen-2-yl]-3-trifluoromethyl-1H-pyrazole (prepared following the described in Example 1c) (110 mg, 210 μmol), 3-pyridylboronic acid (31 mg, 525 μmol), PdCl2dppf (25 mg, 10 mol %), K2CO3 (58 mg, 410 μmol), 1,4-dioxane (8 mL) and H2O (1.5 mL). The reaction solution was allowed to stir at 75° C. for 20 hrs. The reaction solution was diluted with EtOAc (150 mL) and transferred to a separator), funnel and washed with aq NH4Cl (100 mL) and aq NaCl (100 mL). The organic phase was dried over Na2SO4, filtered, concentrated on the Rotavapor and chromatographed through a 25 g SiO2 column using a mobile phase gradient of 100% Hx to 90% EtOAc to afford 45 mg (41% yield) of the title compound. 1H NMR (400 MHz, DMSO-d6) δ 8.41 (m, 1H), 7.99 (m, 2H), 7.51-7.90 (m, 8H), 7.24 (s, 1H), 7.17-7.23 (m, 2H), 6.87 (d, 1H), 3.28 (s, 3H); 19F NMR (400 MHz, DMSO-d6) δ −61.2 ppm. MS (ES) 526.5 [M+H]+.

reactant | 1-(2-Bromo-phenyl)-5-[5-(3-methanesulfonyl-phenyl)-thiophen-2-yl]-3-trifluoromethyl-1H-pyrazole | BrC1=C(C=CC=C1)N1N=C(C=C1C=1SC(=CC1)C1=CC(=CC=C1)S(=O)(=O)C)C(F)(F)F | C21H14BrF3N2O2S2
reactant | 3-pyridylboronic acid | 525 μmol, 31 mg | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | K2CO3 | 410 μmol, 58 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 1,4-dioxane | 8 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
solvent | H2O | 1.5 mL | O | H2O
product | 3-(2-{5-[5-(3-Methanesulfonyl-phenyl)-thiophen-2-yl]-3-trifluoromethyl-pyrazol-1-yl}-phenyl)-pyridine | 45 mg, 41% yield | CS(=O)(=O)C=1C=C(C=CC1)C1=CC=C(S1)C1=CC(=NN1C1=C(C=CC=C1)C=1C=NC=CC1)C(F)(F)F | C26H18F3N3O2S2
